US07045544B2
Ethyl 5-[(3,3-dimethylbutanoyl)amino]-1-[2-(trifluoromethyl)benzyl]-1H-indole-2-carboxylate
Under argon, 35 mg (0.13 mmol) of 1,4,7,10,13,16-hexaoxacyclooctadecane (18-crown-6) are initially charged in 7 ml of THF, and 1.98 ml (1.98 mmol) of a 1-molar potassium tert-butoxide solution in THF and 400 mg (1.32 mmol) of ethyl 5-[(3,3-dimethylbutanoyl)amino]-1H-indole-2-carboxylate from Example LXII are added. The mixture is stirred at RT for 15 minutes and cooled to 0° C. A solution of 474 mg (1.98 mmol) of 2-trifluoromethylbenzyl bromide in 12 ml of THF is slowly added dropwise. The ice-bath is removed and the mixture stirred at RT for 1 hour. For work-up, the mixture is diluted with water and the THF is removed under reduced pressure using a rotary evaporator. The aqueous residue is extracted with ethyl acetate and the organic phase is washed with sat. sodium chloride solution, dried with sodium sulphate, filtered and dried under reduced pressure. The residue is purified by column chromatography (mobile phase: cyclohexane:ethyl acetate 5:1).

reactant | 1,4,7,10,13,16-hexaoxacyclooctadecane | 0.13 mmol, 35 mg | O1CCOCCOCCOCCOCCOCC1 | C12H24O6
reactant | potassium tert-butoxide | 1-molar | CC(C)([O-])C.[K+]
reactant | ethyl 5-[(3,3-dimethylbutanoyl)amino]-1H-indole-2-carboxylate | 1.32 mmol, 400 mg | CC(CC(=O)NC=1C=C2C=C(NC2=CC1)C(=O)OCC)(C)C | C17H22N2O3
reactant | 2-trifluoromethylbenzyl bromide | 1.98 mmol, 474 mg | FC(C1=C(CBr)C=CC=C1)(F)F | C8H6BrF3
solvent | THF | 7 ml | C1CCOC1 | C4H8O
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | Ethyl 5-[(3,3-dimethylbutanoyl)amino]-1-[2-(trifluoromethyl)benzyl]-1H-indole-2-carboxylate | CC(CC(=O)NC=1C=C2C=C(N(C2=CC1)CC1=C(C=CC=C1)C(F)(F)F)C(=O)OCC)(C)C | C25H27F3N2O3
